US04204870
4-Hydroxy-3-(2-pyridylazo)-1-naphthalenesulfonic acid.
1,2-Naphthoquinone-4-sulfonic acid sodium salt (26 g) was dissolved in a mixture of water (500 ml) and concentrated hydrochloric acid (250 ml). To this solution was added 2-pyridylhydrazine (11 g) in water (100 ml). The reaction mixture became warm and the product started to precipitate. After 30 minutes of cooling, the product was filtered off and washed with a small volume of water, acetone and ether. Yield 32 g (96 percent).

reactant | 1,2-Naphthoquinone-4-sulfonic acid sodium salt | 26 g | [Na+].C1(C(C=C(C2=CC=CC=C12)S(=O)(=O)[O-])=O)=O
reactant | 2-pyridylhydrazine | 11 g | N1=C(C=CC=C1)NN | C5H7N3
solvent | water | 500 ml | O | H2O
solvent | hydrochloric acid | 250 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 4-Hydroxy-3-(2-pyridylazo)-1-naphthalenesulfonic acid | OC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)O)N=NC1=NC=CC=C1 | C15H11N3O4S
